US04939282
1,2,3,4,4a,5,12,12a-Octahydro-2-(1-hydroxyethyl)-2- hydroxy-6,7,11-trimethoxy-12-oxonaphthacene (XIII, R=OCH3)
0.48 g of 1-(1,4,5-trimethoxy-3-naphthylmethyl)-2- benzyloxycarbonyl-4-(1-hydroxyethyl)-4-hydroxy-cyclohexane, prepared as described in Example 5, was treated with acetic anhydride and pyridine in the presence of 4-dimethylamino-pyridine. After a night at room temperature the reaction mixture was poured into iced water and extracted with ethyl acetate. The organic layer was washed with water and concentrated. The crude product was dissolved in methanol and refluxed with cyclohexene in the presence of 10% by weight palladium-on-carbon. The catalyst was then filtered off and the solution, concentrated to a small volume, was treated at 0° C for 60 minutes with trifluoroacetic anhydride and trifluoroacetic acid. Then the solution was diluted with ethyl acetate, washed with an aqueous saturated solution of sodium bicarbonate and with water, dried and concentrated to dryness under vacuum. The residue was dissolved in methanol in the presence of catalytic amount of sodium methylate. After conventional work-up and purification by chromatography 0.18 g of the title compound was obtained (yield 49%): m/z 400 (M+.); IR (KBr) : 3450 cm-1 (OH), 1675 cm-1 (C=O benzylic ketone); PMR (CDCL3): inter alia δ(1.2 (d, CH3 -CH), 3.7-3.9 (s, three OCH3) and 6.4-8.0 (m, three aromatic hydrogen).

reactant | 1-(1,4,5-trimethoxy-3-naphthylmethyl)-2- benzyloxycarbonyl-4-(1-hydroxyethyl)-4-hydroxy-cyclohexane | 0.48 g | COC1=CC(=C(C2=C(C=CC=C12)OC)OC)CC1C(CC(CC1)(O)C(C)O)C(=O)OCC1=CC=CC=C1 | C30H36O7
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | KBr | [K+].[Br-]
reactant | water | O | H2O
catalyst | 4-dimethylamino-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,2,3,4,4a,5,12,12a-Octahydro-2-(1-hydroxyethyl)-2- hydroxy-6,7,11-trimethoxy-12-oxonaphthacene | yield 49% | OC(C)C1(CC2C(C3=C(C4=CC=CC(=C4C(=C3CC2CC1)OC)OC)OC)=O)O | C23H28O6
